US04960779
Working in a manner similar to that described in Example 1, but starting with 3-hydroxy-2-(7-methyl-1,8-naphthyridin-2-yl)-1-isoindolinone (7.9 g), an oily suspension (50% by weight; 2 g) of sodium hydride and 5-methyl-2-hexanone (6.2 g), and stirring the reaction mixture for 3 hours at a temperature in the region of -5° C., and then for 2 hours at 0° C., 2-(7-methyl-1,8-naphthyridin-2-yl)-3-(5-methyl-2-oxohexyl)-1-isoindolinone (1 g), m.p. 155° C., is obtained after recrystallization in ethanol.

reactant | 3-hydroxy-2-(7-methyl-1,8-naphthyridin-2-yl)-1-isoindolinone | 7.9 g | OC1N(C(C2=CC=CC=C12)=O)C1=NC2=NC(=CC=C2C=C1)C | C17H13N3O2
reactant | sodium hydride | 2 g | [H-].[Na+]
reactant | 5-methyl-2-hexanone | 6.2 g | CC(CCC(C)=O)C | C7H14O
product | 2-(7-methyl-1,8-naphthyridin-2-yl)-3-(5-methyl-2-oxohexyl)-1-isoindolinone | 1 g | CC1=CC=C2C=CC(=NC2=N1)N1C(C2=CC=CC=C2C1CC(CCC(C)C)=O)=O | C24H25N3O2
